US08071592B2
(b) cis-(3RS,5RS)-5-Hydroxy 1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinecarboxylic Acid
To cis-(3RS,5RS)-5-hydroxy-3-piperidinecarboxylic acid sodium salt (5.2 g; 31.0 mmol) in 0.5 N NaOH (100 ml) was added benzyl chloroformate (7.0 ml; 50.0 mmol) and the reaction was allowed to stir at room temperature under N2 for 14 hours. The reaction was extracted with diethyl ether (2×50 ml), acidified with 6N HCl (pH=2) and extracted with EtOAc (4×100 ml). The combined organic extracts were dried with Na2SO4, the solvents were removed to provide the desired compound (6.2 g; 72%).

reactant | cis-(3RS,5RS)-5-hydroxy-3-piperidinecarboxylic acid sodium salt | 31.0 mmol, 5.2 g | [Na+].O[C@@H]1C[C@@H](CNC1)C(=O)[O-]
reactant | benzyl chloroformate | 50.0 mmol, 7.0 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | NaOH | 0.5 N, 100 ml | [OH-].[Na+]
product | cis-(3RS,5RS)-5-Hydroxy 1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinecarboxylic Acid | 6.2 g, 72% | O[C@@H]1C[C@@H](CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)O | C14H17NO5
